US07297795B2
A suspension of 2-iodo-4-nitrophenol (15.5 g, 58.7 mmol) [ref: Kometani, T.; Watt, D. S.; Ji, T., Tetrahedron Lett. (1985), 26(17), 2043], 2-chloroethyl methyl ether (10.69 mL, 117 mmols), potassium carbonate (16.8 g, 117 mmol) and sodium iodide (100 mg) in 160 mL of N,N-dimethylformamide was heated at 70-80° C. for 4 hours. An additional 5.35 mL of 2-chloroethyl methyl ether was added and the reaction was heated until thin layer chromatography (TLC) showed the absence of the phenol. The mixture was filtered and the filtrate was concentrated in vacuo. The solid was partitioned between ethyl acetate and 1 N sodium hydroxide. The organic layer was dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography eluting with a gradient of hexane to 50% ethyl acetate in hexane. The resultant oil was recrystallized from ether to provide 7.5 g of 2-iodo-1-(2-methoxyethoxy)-4-nitrobenzene as a white solid, mp 35-36° C.; 1H NMR (300 MHz, DMSO-d6) δ 3.37 (s, 3H), 3.74 (t, 2H), 4.33 (t, 2H), 7.20 (d, 1H), 8.26 (d, 1H), 8.56 (s, 1H)

reactant | 2-iodo-4-nitrophenol | 58.7 mmol, 15.5 g | IC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H4INO3
reactant | 2-chloroethyl methyl ether | 117 mmols, 10.69 mL | COCCCl | C3H7ClO
reactant | potassium carbonate | 117 mmol, 16.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloroethyl methyl ether | 5.35 mL | COCCCl | C3H7ClO
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
solvent | N,N-dimethylformamide | 160 mL | CN(C=O)C | C3H7NO
catalyst | sodium iodide | 100 mg | [I-].[Na+]
product | 2-iodo-1-(2-methoxyethoxy)-4-nitrobenzene | 7.5 g | IC1=C(C=CC(=C1)[N+](=O)[O-])OCCOC | C9H10INO4
